.SUBCKT TESTALL

XUFBGA A1 B1 FBGATEST
XUFWB C1 G1 FWBTEST
XUFDP B1 C1 FDPTEST
XUDP C1 D1 DPTEST
XUBDP D1 E1 BDPTEST
XUBWB D1 H1 BWBTEST
XUBBGA E1 F1 BBGATEST

.SUBCKT FBGATEST A B
.ENDS

.SUBCKT FWBTEST A B
.ENDS

.SUBCKT FDPTEST A B
.ENDS

.SUBCKT DPTEST A B
.ENDS

.SUBCKT BDPTEST A B
.ENDS

.SUBCKT BWBTEST A B
.ENDS

.SUBCKT BBGATEST A B
.ENDS

.ENDS
